US09359362B2
Ethyl (rac)-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydrotetrazolo[1,5-a]-pyrimidine-6-carboxylate
Under an atmosphere of argon protective gas, ethyl (rac)-7-(4-cyanophenyl)-5-methyl-4,7-dihydrotetrazolo[1,5-a]pyrimidine-6-carboxylate (600 mg, 1.9 mmol) was stirred in abs. dichloromethane (450 ml) with molecular sieve (0.5 g, 4 Å) for 1 h. 3-(Trifluoromethyl)phenylboronic acid (1.10 g, 5.8 mmol, 3 eq.), anhydrous copper(II) acetate (1.05 g, 5.8 mmol, 3 eq.), abs. pyridine (1.25 ml, 15.5 mmol, 8 eq.) and triethylamine (0.59 g, 5.8 mmol, 3 eq.) were then added, and the mixture was stirred at RT for 12 h. More molecular sieve (0.5 g, 4 Å), 3-(trifluoromethyl)phenylboronic acid (0.37 g, 1.9 mmol, 1 eq.), anhydrous copper(II) acetate (0.35 g, 1.9 mmol, 1 eq.) and abs. pyridine (0.63 ml, 7.73 mmol, 4 eq.) were then added, and the mixture was stirred at RT for a further 12 h. The reaction mixture was then filtered through kieselguhr, the filter residue was washed with dichloromethane and methanol and the filtrate was concentrated to dryness. The residue was purified by preparative HPLC (Gromsil C18 column, 10 μm; mobile phase: acetonitrile/water+0.1% TFA 10:90→90:10). The product was obtained as a colorless amorphous solid (404.6 mg, 46% of theory).

reactant | ethyl (rac)-7-(4-cyanophenyl)-5-methyl-4,7-dihydrotetrazolo[1,5-a]pyrimidine-6-carboxylate | 1.9 mmol, 600 mg | C(#N)C1=CC=C(C=C1)C1C(=C(NC=2N1N=NN2)C)C(=O)OCC | C15H14N6O2
reactant | 3-(Trifluoromethyl)phenylboronic acid | 5.8 mmol, 1.10 g, 3 eq. | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | pyridine | 15.5 mmol, 1.25 ml, 8 eq. | N1=CC=CC=C1 | C5H5N
reactant | triethylamine | 5.8 mmol, 0.59 g, 3 eq. | C(C)N(CC)CC | C6H15N
reactant | 3-(trifluoromethyl)phenylboronic acid | 1.9 mmol, 0.37 g, 1 eq. | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | pyridine | 7.73 mmol, 0.63 ml, 4 eq. | N1=CC=CC=C1 | C5H5N
catalyst | copper(II) acetate | 5.8 mmol, 1.05 g, 3 eq. | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
catalyst | copper(II) acetate | 1.9 mmol, 0.35 g, 1 eq. | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | dichloromethane | 450 ml | ClCCl | CH2Cl2
product | Ethyl (rac)-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydrotetrazolo[1,5-a]-pyrimidine-6-carboxylate | C(#N)C1=CC=C(C=C1)C1C(=C(N(C=2N1N=NN2)C2=CC(=CC=C2)C(F)(F)F)C)C(=O)OCC | C22H17F3N6O2
